US07300931B2
Compound 2: N(3-fluoro-benzyl)-4-biphenylacetamide
To a solution of 4-biphenyl acetic acid (2.00 g, 9.42 mmol) in DMF (20 ml) was added DIEA (3.29 ml, 18.84 mmol) and stirred at room temperature for 15 min, then PyBOP (4.90 g, 9.42 mmol) added and the stirring continued for further 30 min, then 3-fluorobenzylamine (1.18 g, 9.42 mmol) added and the stirring continued for 24 hrs, then the reaction mixture poured on to ice cooled water acidified with (10 ml) 1 N HCl and extracted with ethyl acetate (100 ml) and the organic layer washed with saturated solution of NaHCO3, water and brine, dried over Na2SO4 and the solvent removed under vacuum to give a white powder of the desired compound (1.00 g) 33% yield. Another method involves the acid chloride coupling method described below.

reactant | 4-biphenyl acetic acid | 9.42 mmol, 2.00 g | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | DIEA | 18.84 mmol, 3.29 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 9.42 mmol, 4.90 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 3-fluorobenzylamine | 9.42 mmol, 1.18 g | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | HCl | 1 N, 10 ml | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N(3-fluoro-benzyl)-4-biphenylacetamide | 1.00 g, 33% yield | FC=1C=C(CNC(CC2=CC=C(C=C2)C2=CC=CC=C2)=O)C=CC1 | C21H18FNO
